US03984467
Following a procedure similar to that described in Example 42 but using 1.9 g. sodium in 200 ml. dry acetone, 16 g. nonanamidine hydrochloride, and 14.2 g. 4-chlorophenyl isothiocyanate in 100 ml. dry acetone there was obtained 1-(4-chlorophenyl)-3-(nonanimidoyl)-2-thiourea, m.p. 102°-103°C. (from benzene-n-hexane); hydrochloride (16.2 g.); m.p. 172°-174°C. (from acetonitrile).

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | nonanamidine hydrochloride | Cl.C(CCCCCCCC)(=N)N
reactant | 4-chlorophenyl isothiocyanate | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
solvent | benzene n-hexane | C1=CC=CC=C1.CCCCCC
product | 1-(4-chlorophenyl)-3-(nonanimidoyl)-2-thiourea | ClC1=CC=C(C=C1)NC(=S)NC(CCCCCCCC)=N | C16H24ClN3S
